US07968538B2
To a stirred solution of 5-Fluoro-2-methoxy-3-methylbenzaldehyde (1.2 g, 7.13 mmol) in dry diethyl ether (20 mL) at 0° C. was added methylmagnesium bromide of 3.0 M in ether (6.0 mL, 17.83 mmol). The reaction mixture was brought to room temperature and was stirred for 30 min then refluxed for 3 h. It was then cooled to 0° C. and quenched by adding saturated aqueous NH4Cl. The two liquid layers were separated. The aqueous layer was extracted with ether. The combined organic layers were washed with water, dried, and concentrated to the crude compound which was purified by silica gel column (10-25% ethyl acetate in hexanes) to afford 1-(5-fluoro-2-methoxy-3-methylphenyl)ethanol (1.0 g, 76%): 1H NMR (400 MHz, CDCl3): δ 7.12 (dd, 1H), 6.83 (dd, 1H), 4.72 (m, 1H), 3.81 (s, 3H), 2.38 (s, 3H), 1.47 (d, 3H).

reactant | 5-Fluoro-2-methoxy-3-methylbenzaldehyde | 7.13 mmol, 1.2 g | FC=1C=C(C(=C(C=O)C1)OC)C | C9H9FO2
reactant | methylmagnesium bromide | C[Mg]Br
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | ether | 17.83 mmol, 6.0 mL | CCOCC | C4H10O
product | 1-(5-fluoro-2-methoxy-3-methylphenyl)ethanol | 1.0 g, 76% | FC=1C=C(C(=C(C1)C(C)O)OC)C | C10H13FO2
